US04866089
Preparation of 6,7-ethylenedioxy-2,2-dimethyl-4-chromanone
To a stirred mixture of 100 ml of methyl-ethyl-ketone and 2.6 ml (30 millimoles) of 1,2-dibromo ethane heated to 60° C. 4.2 g (20 millimoles) of 6,7-dihydroxy-2,2-dimethyl-4-chromanone and a suspension of 8.3 g (60 millimoles) of potassium carbonate and 0.5 g of potassium iodide in 100 ml of methyl-ethyl ketone are added dropwise within 3 hours. The reaction mixture is heated to boiling for 5 hours. The inorganic salt is filtered off, washed twice with 20 ml of acetone each and the solvent is removed. The residue is crystallized from 70% ethanol. Thus 3.75 g of the desired compound are obtained, yield 80%. Mp.: 118°-119° C.

reactant | 1,2-dibromo ethane | 30 millimoles, 2.6 ml | BrCCBr | C2H4Br2
reactant | 6,7-dihydroxy-2,2-dimethyl-4-chromanone | 20 millimoles, 4.2 g | OC=1C=C2C(CC(OC2=CC1O)(C)C)=O | C11H12O4
reactant | potassium carbonate | 60 millimoles, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | methyl-ethyl ketone | 100 ml | CC(=O)CC | C4H8O
solvent | methyl-ethyl-ketone | 100 ml | CC(=O)CC | C4H8O
product | 6,7-ethylenedioxy-2,2-dimethyl-4-chromanone | 3.75 g, yield 80% | C1OC=2C=C3C(CC(OC3=CC2OC1)(C)C)=O | C13H14O4
